US04072750
A quantity of 3.3 g of 2-oximino-1,3,5-trithiane and 1.29 ml of methyl isocyanate were dissolved in 50 ml of acetone containing 0.05 ml of triethylamine in a glass pressure vessel. The reaction mixture was allowed to stand for 72 hours at ambient temperature. The solvent was then evaporated and the residue taken up in 200 ml of ethyl acetate. The solution was washed with water, dried over magnesium sulfate and the solvent evaporated off. Recrystallization from isopropyl ether/acetone yielded 2.47 g of 2-methylcarbamoyloximino-1,3,5-trithiane, mp 129°-130°. The compound is identical in spectral properties to that obtained in Example II.

reactant | 2-oximino-1,3,5-trithiane | 3.3 g | N(O)=C1SCSCS1 | C3H5NOS3
reactant | methyl isocyanate | 1.29 ml | CN=C=O | C2H3NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-methylcarbamoyloximino-1,3,5-trithiane | 2.47 g | CNC(=O)C1SCSC(S1)=NO | C5H8N2O2S3
